US07696231B2
b) Preparation of 4-heptyl-N-[4-(hydrazinocarbonyl)phenyl]benzamide (Scheme 2, compound B)
To a suspension of methyl 4-[(4-heptylbenzoyl)amino]benzoate (823 mg, 2.33 mmol) in EtOH (10 mL) was added hydrazine hydrate (1.8 mL). After stirring for 15 h at reflux, the reaction mixture was cooled to rt and a white solid precipitated out. Filtration, washing with EtOH (1×2 mL) and water (2×2 mL), and drying under vacuo at rt for 72 hrs gave 619 mg of the title compound (75%) as a white solid in 99.4% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | methyl 4-[(4-heptylbenzoyl)amino]benzoate | 2.33 mmol, 823 mg | C(CCCCCC)C1=CC=C(C(=O)NC2=CC=C(C(=O)OC)C=C2)C=C1 | C22H27NO3
reactant | hydrazine hydrate | 1.8 mL | O.NN
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-heptyl-N-[4-(hydrazinocarbonyl)phenyl]benzamide | 619 mg, 75% | C(CCCCCC)C1=CC=C(C(=O)NC2=CC=C(C=C2)C(=O)NN)C=C1 | C21H27N3O2
